US05622982
c) 2-(4'-Chlorobiphenyl-4-yl)-5(S)-phenyl-4,5-dihydro-oxazole
A solution of 1.24 g of 4'-chlorobiphenyl-4-carbonyl-[2(R)-hydroxy-2-phenylethyl]amide in 20 ml of pyridine is cooled in an ice bath and treated with a solution of 921 mg of methanesulfonic acid anhydride in dichloromethane. The reaction mixture is stirred for additional 16 hours at 5°, ethyl acetate and saturated aqueous sodium hydrogencarbonate are added, the organic layer is separated, dried and concentrated in vacuo. Vacuum flash chromatography on silica gel (toluene/ethyl acetate =3/1) yields the compound as pale yellow crystals; m.p.: 121.5° (recrystallized from ethanol); [α]D20 =+133.5° (c=1.3, methanol);

reactant | 4'-chlorobiphenyl-4-carbonyl-[2(R)-hydroxy-2-phenylethyl]amide | 1.24 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[N-]C[C@@H](C1=CC=CC=C1)O
reactant | methanesulfonic acid anhydride | 921 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4'-Chlorobiphenyl-4-yl)-5(S)-phenyl-4,5-dihydro-oxazole | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C=1O[C@H](CN1)C1=CC=CC=C1 | C21H16ClNO
